US07576094B2
2-Methoxy-1,3,4-trimethyl-5-nitrobenzene (2.3 g) from the step above, was dissolved in 250 mL ethylacetate, to which Pd/C (0.6 g) was added. House vacuum was applied to it and then it was flushed with hydrogen. This cycle was repeated three times. The suspension was kept at room temperature with a hydrogen balloon overnight. The suspension was then filtered through a pad of Celite® and evaporated to dryness. Elution on a silicagel column (DCM: EtOAc, 10:1-5:1) gave 4-methoxy-2,3,5-trimethylaniline as a solid with slight pink color (0.9 g). 1H-NMR (300 MHz, CDCl3), δ=6.4 (s, 1H), 3.631 (s, 3H), 3.392 (br s, 2H), 2.202 (s, 6H), 2.046 (s, 3H) ppm. 13C-NMR (75 MHz, CDCl3) δ=149.73, 140.35, 129.85, 128.36, 119.92, 115.17, 60.33, 16.02, 13.24, 12.83 ppm.

reactant | 2-Methoxy-1,3,4-trimethyl-5-nitrobenzene | 2.3 g | COC1=C(C=C(C(=C1C)C)[N+](=O)[O-])C | C10H13NO3
solvent | ethylacetate | 250 mL | C(C)OC(C)=O | C4H8O2
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | 4-methoxy-2,3,5-trimethylaniline | COC1=C(C(=C(N)C=C1C)C)C | C10H15NO
